US04358593
6-hydroxy-2-(4-hydroxyphenyl)-3-[4-(2-pyrrolidinoethoxy)benzoyl]benzo[b]thiophene
A 5 g. portion of 6-methanesulfonyloxy-2-(4-methanesulfonyloxyphenyl)-3-[4-(2-pyrrolidinoethoxy)benzoyl]benzo[b]thiophene, hydrochloride, was dissolved in 125 ml. of denatured ethanol and 15 ml. of 5 N sodium hydroxide, and the mixture was stirred under reflux for one hour. The ethanol was then evaporated away under vacuum, and the residue was dissolved in water. The mixture was then made acid with 1 N hydrochloric acid, and was then made basic with sodium bicarbonate. The basic solution was extracted three times with 100 ml. portions of ethyl acetate, dried over magnesium sulfate, filtered and evaporated to an oil, 3.6 g., under vacuum. The oil was shown by thin layer chromatography to contain the desired product by comparison with authentic samples. It was purified further by chromatography on silica gel by elution with 6% methanol in chloroform. The size of the column was 3.5×2.5 cm., and 20 ml. fractions were collected. Fractions 31 through 150 contained 2.4 g. of partially purified product, which was identified by thin layer chromatographic comparison with an authentic sample of the desired product.

reactant | 6-methanesulfonyloxy-2-(4-methanesulfonyloxyphenyl)-3-[4-(2-pyrrolidinoethoxy)benzoyl]benzo[b]thiophene, hydrochloride | Cl.CS(=O)(=O)OC=1C=CC2=C(SC(=C2C(C2=CC=C(C=C2)OCCN2CCCC2)=O)C2=CC=C(C=C2)OS(=O)(=O)C)C1
reactant | sodium hydroxide | 5 N | [OH-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 6-hydroxy-2-(4-hydroxyphenyl)-3-[4-(2-pyrrolidinoethoxy)benzoyl]benzo[b]thiophene | OC=1C=CC2=C(SC(=C2C(C2=CC=C(C=C2)OCCN2CCCC2)=O)C2=CC=C(C=C2)O)C1 | C27H25NO4S
